US07776864B2
Step 5: 6-phenyl-7-(4-{[4-(3-pyridin-2-yl-1,2,4-triazol-5-yl)piperidin-1-yl]methyl}phenyl)imidazo[1,2-a]pyrimidine
0.55 ml triethylamine is added to a solution of 0.5 g 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde in 15 ml methanol. To this solution a solution of 0.6 g 2-(5-Piperidin-[1,2,4]triazol-3-yl)-pyridine*2HCl (prepared from tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate and pyridine-2-carbonitrile according to a procedure described in U.S. Pat. No. 4,011,218 or WO2005100344) in 15 ml DMF is added, followed by 0.25 ml glacial acetic acid and 700 mg NaBH(OAc)3. The resulting mixture is stirred at room temperature. Three additional portions of 2 equivalents NaBH(OAc)3 are added after 2, 4 and 20 hours.

reactant | 4-(6-phenylimidazo[1,2-a]pyrimidin-7-yl)benzaldehyde | 0.5 g | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | pyridine-2-carbonitrile | N1=C(C=CC=C1)C#N | C6H4N2
reactant | NaBH(OAc)3 | 700 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 2 equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 0.25 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.55 ml | C(C)N(CC)CC | C6H15N
product | 6-phenyl-7-(4-{[4-(3-pyridin-2-yl-1,2,4-triazol-5-yl)piperidin-1-yl]methyl}phenyl)imidazo[1,2-a]pyrimidine | C1(=CC=CC=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NC(=NN2)C2=NC=CC=C2 | C31H28N8
